US07001899B2
Preparation of {6-(hydroxymethyl)-3-[(isoquinoline-1-carbonyl)amino]-2-oxo-2,3,4,7-tetrahydro-azepin-1-yl}-acetic acid (20):
A solution of {6-hydroxymethyl-3-[(isoquinoline-1-carbonyl)-amino]-2-oxo-2,3,4,7-tetrahydro-azepin-1-yl}-acetic acid methyl ester, 19, (0.16 g, 0.41 mmol) in THF/H2O (4 mL, 3:1) is treated with excess LiOH and stirred for 2.5 hours at room temperature. The solution is acidified to pH 7, concentrated in vacuo and purified by HPLC to afford 0.15 g of the desired product.

reactant | {6-hydroxymethyl-3-[(isoquinoline-1-carbonyl)-amino]-2-oxo-2,3,4,7-tetrahydro-azepin-1-yl}-acetic acid methyl ester | COC(CN1C(C(CC=C(C1)CO)NC(=O)C1=NC=CC2=CC=CC=C12)=O)=O | C20H21N3O5
reactant | LiOH | [Li+].[OH-]
solvent | THF H2O | 4 mL | C1CCOC1.O
product | {6-(hydroxymethyl)-3-[(isoquinoline-1-carbonyl)amino]-2-oxo-2,3,4,7-tetrahydro-azepin-1-yl}-acetic acid | 0.15 g | OCC1=CCC(C(N(C1)CC(=O)O)=O)NC(=O)C1=NC=CC2=CC=CC=C12 | C19H19N3O5
